US04277618
A mixture of 360 ml of acetyl chloride and 153 ml of acetic acid anhydride is added dropwise at 0° C., whilst stirring, to a solution of 576 g of crude 1-methyl-2-cyclohexylcyclohexanol in 750 ml of N,N-dimethylaniline. The mixture is then allowed to come to room temperature, after which it is heated to 40° C. for 36 hours. Thereafter, the reaction mixture is poured onto ice and diluted with 1 liter of ether, and the organic phase is separated off and concentrated ona Rotavapor apparatus. The residue is then taken up in 2 liters of ether and the solution is washed with three times 200 ml of cold 2-N HCl and then with saturated bicarbonate solution and water until neutral, and is dried with anhydrous MgSO4 and evaporated in vacuo. 646 g of crude 1-acetoxy-1-methyl-2-cyclohexylcyclohexane are obtained.

reactant | acetyl chloride | 360 ml | C(C)(=O)Cl | C2H3ClO
reactant | acetic acid anhydride | 153 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-methyl-2-cyclohexylcyclohexanol | 576 g | CC1(C(CCCC1)C1CCCCC1)O | C13H24O
solvent | N,N-dimethylaniline | 750 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | ether | 1 liter | CCOCC | C4H10O
product | 1-acetoxy-1-methyl-2-cyclohexylcyclohexane | 646 g | C(C)(=O)OC1(C(CCCC1)C1CCCCC1)C | C15H26O2
